US06258812B1
7-Acetamino-1-(4-methoxyanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
Under exclusion of air, 354 mg (2.88 mmol) 4-methoxyaniline and 13 mg lithium iodide are added to 300 mg (0.96 mmol) 7-acetamino-1-chloro-4-(4-pyridylmethyl)phthalazine in 3.9 ml 1-butanol and heated to boiling for 20 h. After cooling, the dark suspension is filtered off, washed with 1-butanol and ethanol, and dried to obtain title compound: m.p.: 160-163° C.; HPLC: tRet(Grad5-40)=9.5; FAB MS (M+H)+=400.

reactant | 4-methoxyaniline | 2.88 mmol, 354 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | lithium iodide | 13 mg | [I-].[Li+]
reactant | 7-acetamino-1-chloro-4-(4-pyridylmethyl)phthalazine | 0.96 mmol, 300 mg | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
solvent | 1-butanol | 3.9 ml | C(CCC)O | C4H10O
product | 7-Acetamino-1-(4-methoxyanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC=C(C=C1)OC)CC1=CC=NC=C1 | InChI=1S/C23H21N5O2.ClH/c1-15(29)25-18-5-8-20-21(14-18)23(26-17-3-6-19(30-2)7-4-17)28-27-22(20)13-16-9-11-24-12-10-16;/h3-12,14H,13H2,1-2H3,(H,25,29)(H,26,28);1H
